US04496560
A solution of methyl dithiocarbamate (9 g) in tetrahydrofuran (250 cc) is heated to the reflux temperature, and a solution of 2-benzhydryloxycarbonyl-3-(1-bromo-2-oxoethyl)-7-t-butoxycarbonylamino-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene (44 g) in ethanol (100 cc) is then added. The reaction mixture is heated at 66° C. for 65 minutes and is then diluted with water (2 liters) and ethyl acetate (1 liter). The aqueous phase is decanted and washed with ethyl acetate (250 cc). The combined organic phases are washed with a half-saturated sodium chloride solution (1 liter), then dried over sodium sulphate, and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 30° C. The residue is chromatographed on a column (diameter: 8 cm) of silica gel (0.2-0.06 mm) (1 liter), 500 cc fractions being collected. Elution is carried out successively with methylene chloride (3.5 liters) and with a 90:10 (by volume) mixture of methylene chloride and ethyl acetate (8 liters). Fractions 14 to 16, containing the pure product, are combined and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 30° C. The residue is triturated with isopropyl ether and is then filtered off and dried; 2-benzhydryloxycarbonyl-7-t-butoxycarbonylamino-3-(2-methylthio-thiazol-5-yl)-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene (7.3 g) is obtained in the form of a cream-coloured solid.

reactant | methyl dithiocarbamate | 9 g | C(N)(SC)=S | C2H5NS2
reactant | 2-benzhydryloxycarbonyl-3-(1-bromo-2-oxoethyl)-7-t-butoxycarbonylamino-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene | 44 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1N2C(C(C2SCC1C(C=O)Br)NC(=O)OC(C)(C)C)=O | C27H27BrN2O6S
solvent | tetrahydrofuran | 250 cc | O1CCCC1 | C4H8O
solvent | ethanol | 100 cc | C(C)O | C2H6O
solvent | water | 2 liters | O | H2O
solvent | ethyl acetate | 1 liter | C(C)(=O)OCC | C4H8O2
product | 2-benzhydryloxycarbonyl-7-t-butoxycarbonylamino-3-(2-methylthio-thiazol-5-yl)-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene | 7.3 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1N2C(C(C2SCC1C1=CN=C(S1)SC)NC(=O)OC(C)(C)C)=O | C29H29N3O5S3
